### PR TITLE
Partial Evaluation DRT

### PR DESCRIPTION
**Pull request by aaronjeline**
*Issue #, if available:*
N/A
*Description of changes:*
Adds DRT for partial evaluation 

It does find a discrepancy

### CODE REVIEW

File: cedar-drt/fuzz/fuzz_targets/partial-eval.rs [hunk 1]
```diff
@@ -51,8 +40,9 @@ struct FuzzTargetInput {
     /// generated entity slice
     #[serde(skip)]
     pub entities: Entities,
-    /// generated policy
-    pub policy: ABACPolicy,
+    /// generated expression
+    #[serde(serialize_with = "expr_to_est")]
+    pub expression: Expr,
     /// the requests to try for this hierarchy and policy. We try 8 requests per
     /// policy/hierarchy
```
Comment (cdisselkoen) [inline cedar-drt/fuzz/fuzz_targets/partial-eval.rs:47]: maybe comment needs updating, if we aren't DRT'ing policies in this target

File: cedar-drt/fuzz/fuzz_targets/partial-eval.rs [hunk 2]
```diff
@@ -15,31 +15,20 @@
...
+use log::info;
 use serde::Serialize;
-use smol_str::SmolStr;
-use std::collections::HashMap;
-use std::collections::HashSet;
-use std::convert::TryFrom;
-use std::sync::Arc;
 
 /// Input expected by this fuzz target:
 /// An ABAC hierarchy, policy, and 8 associated requests
```
Comment (cdisselkoen) [inline cedar-drt/fuzz/fuzz_targets/partial-eval.rs:34]: maybe comment needs updating. Not sure if it's valuable to list the fields in this comment, since you can just look at the public fields & their docstrings

File: cedar-drt/fuzz/fuzz_targets/partial-eval.rs [hunk 3]
```diff
@@ -116,121 +114,18 @@ impl<'a> Arbitrary<'a> for FuzzTargetInput {
...
-                .reauthorize(&mapping, &auth, q.clone(), &input.entities)
-                .unwrap();
-            assert!(
-                concrete_response.decision().is_some(),
-                "Substituting all `unknown`s should give a decision"
-            );
-            let concrete: Response = concrete_response.into();
-            partial_response_correctness(&ans, &concrete);
+    let request = input.requests.first().unwrap().clone().into();
+    debug!("{}", request);
```
Comment (cdisselkoen) [inline cedar-drt/fuzz/fuzz_targets/partial-eval.rs:126]:
```suggestion
    debug!("{request}");
```

File: cedar-drt/fuzz/src/lib.rs [hunk 4]
```diff
@@ -43,6 +43,64 @@ use std::collections::HashSet;
...
+    let eval = Evaluator::new(request.clone(), entities, &exts);
+    use cedar_policy_core::ast::PartialValue;
+    use cedar_testing::cedar_test_impl::ExprOrValue;
+    use log::debug;
+    let expected = match eval.partial_interpret(expr, &std::collections::HashMap::default()) {
+        Ok(PartialValue::Value(v)) => Some(ExprOrValue::value(v)),
+        Ok(PartialValue::Residual(r)) => Some(ExprOrValue::Expr(r)),
+        Err(_) => None,
+    };
+    debug!("Expected: {:?}", expected);
```
Comment (cdisselkoen) [inline cedar-drt/fuzz/src/lib.rs:71]:
```suggestion
    debug!("Expected: {expected:?}");
```

File: cedar-drt/fuzz/src/lib.rs [hunk 5]
```diff
@@ -43,6 +43,64 @@ use std::collections::HashSet;
...
+        expected.clone(),
+    );
+    match definitional_res {
+        TestResult::Failure(err) => {
+            // TODO(#175): Ignore cases where the definitional code returned an error due to
+            // an unknown extension function.
+            //      if err.contains("jsonToExtFun: unknown extension function") {
+            //         return;
+            //    }
+            // No other errors are expected
```
Comment (cdisselkoen) [inline cedar-drt/fuzz/src/lib.rs:87]: I'm confused whether this is still a TODO or not, since the relevant code seems to be commented out

File: cedar-drt/src/definitional_request_types.rs [hunk 6]
```diff
@@ -34,6 +35,14 @@ pub struct EvaluationRequest<'a> {
     pub expected: Option<&'a ast::Expr>,
 }
 
+#[derive(Debug, Serialize)]
+pub struct PartialEvlauationRequest<'a> {
```
Comment (cdisselkoen) [inline cedar-drt/src/definitional_request_types.rs:39]:
```suggestion
pub struct PartialEvaluationRequest<'a> {
```

File: cedar-drt/src/lean_impl.rs [hunk 7]
```diff
@@ -227,6 +230,45 @@ impl LeanDefinitionalEngine {
         }
     }
 
+    fn deserialize_partial_evaluation_response(response_string: String) -> TestResult<bool> {
+        use log::debug;
+        debug!("Response: `{response_string}`");
+        let resp: PartialEvaluationResponse =
+            serde_json::from_str(&response_string).expect("could not deserialize json");
+        debug!("resp: `{:?}`", resp);
```
Comment (cdisselkoen) [inline cedar-drt/src/lean_impl.rs:238]:
```suggestion
        debug!("resp: `{resp:?}`");
```

File: cedar-lean/Cedar/Partial/Evaluator.lean [hunk 8]
```diff
@@ -129,12 +129,16 @@ def evaluateVar (v : Var) (req : Partial.Request) : Result Partial.Value :=
     | some kvs => .ok (.value (Map.make kvs))
     | none     => .ok (.residual (Partial.Expr.record (req.context.kvs.map fun (k, v) => (k, v.asPartialExpr))))
 
+def call : ExtFun → List Spec.Value → Result Value
+  | .unknown, [.prim (.string name)] => .ok (.residual (.unknown name))
+  | fn, args =>  do
+    let val ←  Spec.call fn args
```
Comment (cdisselkoen) [inline cedar-lean/Cedar/Partial/Evaluator.lean:135]:
```suggestion
    let val ← Spec.call fn args
```

File: cedar-lean/Cedar/Partial/Expr.lean [hunk 9]
```diff
@@ -15,8 +15,8 @@
 -/
 
 import Cedar.Data
+import Cedar.Thm.Data.List
```
Comment (cdisselkoen) [inline cedar-lean/Cedar/Partial/Expr.lean:18]: @emina doesn't want files in `Cedar/Partial` to import files in `Cedar/Thm`

File: cedar-lean/Cedar/Partial/Expr.lean [hunk 10]
```diff
@@ -48,6 +48,27 @@ inductive Expr where
 
 deriving instance Repr, Inhabited for Expr
 
+
+-- Do we want some kind of roundtrip proof here?
```
Comment (cdisselkoen) [inline cedar-lean/Cedar/Partial/Expr.lean:52]: I think that would be nice

File: cedar-lean/Cedar/Thm/Validation/Typechecker/Call.lean [hunk 11]
```diff
@@ -373,6 +373,46 @@ theorem type_of_call_ipAddr_recognizer_is_sound {xfn : ExtFun} {xs : List Expr}
       apply bool_is_instance_of_anyBool
     }
 
+-- It's impossible to call `unknown` in a well typed way
+theorem type_of_unknown_call_untyped :
+  ∀ (f : ExtFun) (xs : List Expr) (c : Capabilities) (env : Environment),
```
Comment (cdisselkoen) [inline cedar-lean/Cedar/Thm/Validation/Typechecker/Call.lean:378]: Our style would usually be
```suggestion
theorem type_of_unknown_call_untyped (f : ExtFun) (xs : List Expr) (c : Capabilities) (env : Environment) :
```

I'm not sure offhand why/whether we should prefer one style over the other

File: cedar-lean/Cedar/Thm/Validation/Typechecker/Call.lean [hunk 12]
```diff
@@ -373,6 +373,46 @@ theorem type_of_call_ipAddr_recognizer_is_sound {xfn : ExtFun} {xs : List Expr}
...
+  f = .unknown ∨ f = .error →
+  ∃ e, typeOf (.call f xs) c env = err e :=
+  by
+  intros f xs c env h
+  unfold typeOf
+  simp
```
Comment (cdisselkoen) [inline cedar-lean/Cedar/Thm/Validation/Typechecker/Call.lean:384]: Our recommendation in one of our READMEs is to avoid bare `simp` except to close a goal, for proof stability reasons (hedging against lemmas being added/removed from `simp` in future versions of Lean).  You can write `simp?` and then click to accept the suggestion of an equivalent `simp only` command.

File: cedar-lean/Cedar/Thm/Validation/Typechecker/Call.lean [hunk 13]
```diff
@@ -373,6 +373,46 @@ theorem type_of_call_ipAddr_recognizer_is_sound {xfn : ExtFun} {xs : List Expr}
...
+  case error e' => {
+    -- Either there's a type error in the arguments
+    exists e'
+  }
+  case ok _ => {
+    -- Or the call itself has no typing rule
+    cases h
+    <;> rename_i hf
+    <;> rw [hf]
+    <;> simp
```
Comment (cdisselkoen) [inline cedar-lean/Cedar/Thm/Validation/Typechecker/Call.lean:395]: another `simp` to replace with `simp only` per our style guide

File: cedar-lean/Cedar/Partial/Expr.lean [hunk 14]
```diff
@@ -48,6 +48,27 @@ inductive Expr where
...
+def Expr.asSpec (e : Expr) : Option Spec.Expr :=
+  match e with
+  | .lit p => some (.lit p)
+  | .var v => some (.var v)
+  | .ite cond cons alt =>  .ite <$> cond.asSpec <*> cons.asSpec <*> alt.asSpec
```
Comment (cdisselkoen) [inline cedar-lean/Cedar/Partial/Expr.lean:57]:
```suggestion
  | .ite cond cons alt => .ite <$> cond.asSpec <*> cons.asSpec <*> alt.asSpec
```

File: cedar-lean/DiffTest/Parser.lean [hunk 15]
```diff
@@ -246,6 +261,26 @@ partial def exprToValue : Expr → ParseResult Value
 def jsonToValue (json : Lean.Json) : ParseResult Value :=
   jsonToExpr json >>= exprToValue
 
+
+inductive ValueOrExpr where
+  | value : Value → ValueOrExpr
+  | expr : Cedar.Partial.Expr  → ValueOrExpr
```
Comment (cdisselkoen) [inline cedar-lean/DiffTest/Parser.lean:267]:
```suggestion
  | expr : Cedar.Partial.Expr → ValueOrExpr
```

Comment (cdisselkoen) [inline cedar-lean/DiffTest/Parser.lean:267]: What's the difference between this and
```
inductive ValueOrExpr where
  | value (v : Value)
  | expr (x : Cedar.Partial.Expr)
```

File: cedar-lean/DiffTest/Parser.lean [hunk 16]
```diff
@@ -246,6 +261,26 @@ partial def exprToValue : Expr → ParseResult Value
...
+
+def jsonToValueOrExpr (json : Lean.Json) : ParseResult ValueOrExpr := do
+  match json.getObjVal? "Value" with
+    | .ok v => ValueOrExpr.value <$> (jsonToValue v)
+    | .error _ => match json.getObjVal? "Expr" with
+      | .ok e => ValueOrExpr.expr <$> (jsonToPartialExpr e)
+      | .error _ => .error "Expected either `expr` or `value`"
```
Comment (cdisselkoen) [inline cedar-lean/DiffTest/Parser.lean:274]: did we expect `expr`/`value`, or `Expr`/`Value`?

File: cedar-drt/fuzz/fuzz_targets/partial-eval.rs [hunk 17]
```diff
@@ -78,8 +68,16 @@ impl<'a> Arbitrary<'a> for FuzzTargetInput {
...
+        let toplevel_type = arbitrary_schematype_with_bounded_depth(
+            &SETTINGS,
+            schema.entity_types(),
+            SETTINGS.max_depth,
+            u,
+        )?;
+
+        let expr_gen = schema.exprgenerator(Some(&hierarchy));
+        let expression =
+            expr_gen.generate_expr_for_schematype(&toplevel_type, SETTINGS.max_depth, u)?;
```
Comment (cdisselkoen) [inline cedar-drt/fuzz/fuzz_targets/partial-eval.rs:80]: will this generate expressions that include unknowns?

File: cedar-drt/fuzz/fuzz_targets/partial-eval.rs [hunk 18]
```diff
@@ -95,7 +93,7 @@ impl<'a> Arbitrary<'a> for FuzzTargetInput {
         Ok(Self {
             schema,
             entities,
-            policy,
+            expression,
             requests,
```
Comment (cdisselkoen) [inline cedar-drt/fuzz/fuzz_targets/partial-eval.rs:97]: will `entities` and `requests` include entity/context attribute values that contain unknowns?

**Review by cdisselkoen — COMMENTED** [review]
Looks good to me overall

File: cedar-lean/Cedar/Thm/Validation/Typechecker/Call.lean (hunk 13 above)
Comment (cdisselkoen) [reply cedar-lean/Cedar/Thm/Validation/Typechecker/Call.lean:395]: or with `csimp` if we accept #311

File: cedar-lean/DiffTest/Parser.lean [hunk 19]
```diff
@@ -165,57 +169,68 @@ partial def jsonToExpr (json : Lean.Json) : ParseResult Expr := do
...
+  | "Unknown" => do
+    let name ← getJsonField body "name" >>= jsonToString
+    .ok (.unknown name)
+  | tag => .error s!"jsonToPartialExpr: unknown tag {tag}"
+
+def jsonToExpr (json : Lean.Json) : ParseResult Expr := do
+  let pe ← jsonToPartialExpr json
+  match pe.asSpec with
+  | some e => .ok e
+  | none => .error s!"expression contained unknown"
```
Comment (khieta) [inline cedar-lean/DiffTest/Parser.lean:231]:
```suggestion
  | none => .error s!"jsonToExpr: expression contained unknown"
```
When debugging in the past, I've found it useful to include the function name in the error message.

File: cedar-lean/DiffTest/Parser.lean (hunk 15 above)
Comment (khieta) [reply cedar-lean/DiffTest/Parser.lean:267]: I think the difference is just whether the fields are named.

File: cedar-policy-generators/src/expr.rs [hunk 20]
```diff
@@ -268,11 +268,7 @@ impl<'a> ExprGenerator<'a> {
         if self.should_generate_unknown(max_depth, u)? {
             let v = self.generate_value_for_type(target_type, max_depth, u)?;
             let name = self.unknown_pool.alloc(target_type.clone(), v);
-            let unknown_type: Option<ast::Type> = target_type.clone().try_into().ok();
-            match unknown_type {
-                Some(ty) => Ok(ast::Expr::unknown(ast::Unknown::new_with_type(name, ty))),
-                None => Ok(ast::Expr::unknown(ast::Unknown::new_untyped(name))),
-            }
+            Ok(ast::Expr::unknown(ast::Unknown::new_untyped(name)))
```
Comment (khieta) [inline cedar-policy-generators/src/expr.rs:271]: What's the reason for this change?

File: cedar-lean/DiffTest/Parser.lean (hunk 16 above)
Comment (khieta) [inline cedar-lean/DiffTest/Parser.lean:274]:
```suggestion
      | .error _ => .error "jsonToValueOrExpr: expected either `Expr` or `Value`"
```

File: cedar-lean/Cedar/Spec/ExtFun.lean [hunk 21]
```diff
@@ -37,6 +37,8 @@ inductive ExtFun where
   | isLoopback
   | isMulticast
   | isInRange
+  | unknown             ----- Partial Evaluation Functions ----
+  | error
```
Comment (khieta) [inline cedar-lean/Cedar/Spec/ExtFun.lean:41]: What is the `error` extension for?

If possible, I think it's be better to keep the partial evaluation functionality contained to `Cedar/Partial` rather than let it leak into `Cedar/Spec`.

**Review by khieta — COMMENTED** [review]
Some high-level comments
* I imagine we'll also want to be DRT'ing policies, since the logic to compute the "definitely erroring policies" and such is a little confusing. Might make sense to add an additional target in this PR, like how we have `abac-type-directed` and `eval_type_directed`.
* Let's change the name to `partial-eval-type-directed` for consistency with the other targets.
* Can you add support for PE to `Cli/Main.lean` too? Should be easy since you've already set up the DRT functionality.

**Comment by aaronjeline** [comment]
> Some high-level comments
> 
> * I imagine we'll also want to be DRT'ing policies, since the logic to compute the "definitely erroring policies" and such is a little confusing. Might make sense to add an additional target in this PR, like how we have `abac-type-directed` and `eval_type_directed`.

Absolutely, just waiting for partial auth code to be merged 


> * Let's change the name to `partial-eval-type-directed` for consistency with the other targets.

Will do 
> * Can you add support for PE to `Cli/Main.lean` too? Should be easy since you've already set up the DRT functionality.

Sure

File: cedar-lean/Cedar/Partial/Expr.lean (hunk 9 above)
Comment (aaronjeline) [reply cedar-lean/Cedar/Partial/Expr.lean:18]: Ok, if I need to for theorems where should I move those theorems? (And also curious what's the organizational reason?)

File: cedar-drt/fuzz/src/lib.rs (hunk 5 above)
Comment (aaronjeline) [reply cedar-drt/fuzz/src/lib.rs:87]: Mistake, commented out for debugging.

File: cedar-lean/DiffTest/Parser.lean (hunk 15 above)
Comment (emina) [reply cedar-lean/DiffTest/Parser.lean:267]: Yes that’s the only difference IIRC:  you get the specified names in the error messages and other help widgets.

File: cedar-lean/Cedar/Spec/ExtFun.lean (hunk 21 above)
Comment (emina) [reply cedar-lean/Cedar/Spec/ExtFun.lean:41]: Can we think of some other solution here?  This error function is not part of the language spec itself, and it would be a pity to make the spec messier for a specific feature like PE.

Comment (aaronjeline) [reply cedar-lean/Cedar/Spec/ExtFun.lean:41]: It will be part of the spec once we release partial evaluation no? As in it will be a valid extension function?

Comment (emina) [reply cedar-lean/Cedar/Spec/ExtFun.lean:41]: Thinking about it more, I think this function is quite problematic.  Specifically, what is its type? If we can't assign a type to it, then PE will produce ill-typed expressions even when given well-typed input. 

In other words, PE should preserve correct types, just like it preserves correct evaluation semantics (for non-erroring executions).

Comment (aaronjeline) [reply cedar-lean/Cedar/Spec/ExtFun.lean:41]: If we don't like this solution then we have to be ok with not evaluating branches to errors, which is maybe fine.

File: cedar-drt/fuzz/fuzz_targets/partial-eval.rs (hunk 17 above)
Comment (aaronjeline) [reply cedar-drt/fuzz/fuzz_targets/partial-eval.rs:80]: yes

**Review by emina — APPROVED** [review]

**Review by cdisselkoen — APPROVED** [review]
Nothing in my comments needs to be blocking

File: cedar-policy-generators/src/expr.rs (hunk 20 above)
Comment (cdisselkoen) [reply cedar-policy-generators/src/expr.rs:271]: Bumping this question from @khieta as well

**Review by cdisselkoen — APPROVED** [review]

File: cedar-drt/fuzz/fuzz_targets/partial-eval.rs (hunk 18 above)
Comment (aaronjeline) [reply cedar-drt/fuzz/fuzz_targets/partial-eval.rs:97]: It should, as it's using the `exprgenerator` from the schema, which has a single settings blob that says to generator unknowns.

File: cedar-policy-generators/src/expr.rs (hunk 20 above)
Comment (aaronjeline) [reply cedar-policy-generators/src/expr.rs:271]: Reverted, good catch @khieta

File: cedar-lean/Cedar/Thm/Partial/Expr.lean [hunk 22]
```diff
@@ -0,0 +1,23 @@
...
+ limitations under the License.
+-/
+
+import Cedar.Thm.Partial.Expr.Lemmas
+namespace Cedar.Partial.Thm.Expr
+
+theorem roundtrip (e : Spec.Expr) (pe : Partial.Expr) :
+  e.asPartialExpr = pe ↔ pe.asSpec = some e := by
+  apply Iff.intro <;> intros h
+  all_goals { (first | apply roundtrip₂ | apply roundtrip₁) <;> assumption }
```
Comment (cdisselkoen) [inline cedar-lean/Cedar/Thm/Partial/Expr.lean:23]: maybe something like this is clearer?
```suggestion
  · apply roundtrip₂ ; assumption 
  · apply roundtrip₁ ; assumption
```

Comment (cdisselkoen) [reply cedar-lean/Cedar/Thm/Partial/Expr.lean:23]: Or, instead of `assumption`, use `h` directly.
```suggestion
  · exact roundtrip₂ _ _ h 
  · exact roundtrip₁ _ _ h
```
or something similar

File: cedar-lean/DiffTest/Parser.lean (hunk 16 above)
Comment (cdisselkoen) [reply cedar-lean/DiffTest/Parser.lean:275]: did you reject this suggestion? it was resolved but it doesn't appear in the latest diff

**Review by cdisselkoen — APPROVED** [review]
